US07250516B2
An ethanol solution of hydrogen bromide (25%, 10 ml) was added to 1,4-dihydro-3H-isochromene-3-one (500 mg) and stirred at 70° C. overnight. After removing the solvent, the residue was roughly purified with a silica gel chromatography (hexane-ethyl acetate) to obtain a crude material of [2-(bromomethyl)phenyl]ethyl acetate. Methyl 3-(4-aminophenyl)-2-[(2,6-dichlorobenzoyl)amino]propionate (520 mg), triethylamine (490 μl) and DMF (5 ml) were added to the crude material and stirred at 125° C. for six hours. After removing the solvent, the residue was purified with a silica gel chromatography (hexane-ethyl acetate) to obtain methyl 2-[(2,6-dichlorobenzoyl)amino]-3-(4-{[2-(2-ethoxy-2-oxoethyl) benzyl]amino}phenyl) propionate (510 mg).

reactant | hydrogen bromide | 10 ml | Br | BrH
reactant | 1,4-dihydro-3H-isochromene-3-one | 500 mg | C1OC(CC2=CC=CC=C12)=O | C9H8O2
reactant | ethanol | C(C)O | C2H6O
product | [2-(bromomethyl)phenyl]ethyl acetate | C(C)(=O)OCCC1=C(C=CC=C1)CBr | C11H13BrO2
